US05650410
A mixture of ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (1.0 g), piperazine (1.15 g) and methanol (15 ml) was stirred at room temperature for 36 hours. The reaction mixture was concentrated under reduced pressure, 6N hydrochloric acid (30 ml) was added to the residue, and the mixture was washed with dichloromethane. The aqueous layer was neutralized with 2N sodium hydroxide, and extracted with dichloromethane. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residual crystals were separated by filtration, and then recrystallized from dichloromethane-hexane to give ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-piperazinomethylquinoline-3-carboxylate (0.43 g, 39%). Colorless prisms, mp. 192°-193° C.

reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 1.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | piperazine | 1.15 g | N1CCNCC1 | C4H10N2
solvent | methanol | 15 ml | CO | CH4O
product | ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-piperazinomethylquinoline-3-carboxylate | 0.43 g, 39% | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN1CCNCC1)C(=O)OCC | C27H33N3O6
